US04353905
Similarly, reaction of 4,5-dihydro-6-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone with bromine in acetic acid as described in this Example gives 6-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone.

reactant | 4,5-dihydro-6-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone | CC=1N(C=CN1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C14H14N4O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-3(2H)-pyridazinone | CC=1N(C=CN1)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C14H12N4O
